US06753342B2
A solution of 2-(1-(4-chlorobenzyl)-1H-indol-3-yl)-2-oxo-acetyl chloride (0.45 g) and 4-amino-5H-furan-2-one (0.30 g) in dry tetrahydrofuran (10 ml) is refluxed for 2 h. After cooling at room temperature, the reaction mixture is poured into water (200 ml) and the resulting suspension is left under stirring for 1 h. The solid is filtered off and resuspended in methanol (4.3 ml) under stirring for 1 h, then collected by filtration to give N-(5-oxo-2,5-dihydrofuran-3-yl)-2-(1-(4-chlorobenzyl)-1H-indol-3-yl)-2-oxo-acetamide (0.27 g).

reactant | 2-(1-(4-chlorobenzyl)-1H-indol-3-yl)-2-oxo-acetyl chloride | 0.45 g | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C(C(=O)Cl)=O)C=C1 | C17H11Cl2NO2
reactant | 4-amino-5H-furan-2-one | 0.30 g | NC1=CC(OC1)=O | C4H5NO2
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-(5-oxo-2,5-dihydrofuran-3-yl)-2-(1-(4-chlorobenzyl)-1H-indol-3-yl)-2-oxo-acetamide | 0.27 g | O=C1C=C(CO1)NC(C(=O)C1=CN(C2=CC=CC=C12)CC1=CC=C(C=C1)Cl)=O | C21H15ClN2O4
